US05597826
7-(3-Methoxycarbonylphenyl)-1-(4-methyl-1-piperazinyl)-naphthalene
The title product was prepared following the procedure of example 41 from 7-trimethylstannyl-1-(4-methyl-1-piperazinyl)-naphthalene (0.25 g, 0.67 mmol), 3-methoxycarbonyl-1-bromobenzene (0.16 g, 0.74 mmol), triethylamine (0.45 mL, 3.23 mmol), lithium chloride (0.088 g, 2.07 mmol), and bis (triphenylphosphine) palladium chloride (0.025 g, 0.036 mmol) in DMF (12.5 mL) with a heating time of 1.5 hours at 120 to 130° C. The product obtained was 0.15 g (63%) in yield as an oil which was converted to a hydrochloride salt with HCl gas in ether. The solid was collected under a nitrogen atmosphere and recrystallized from chloroform/ether for analysis: mp 201°-203° C.; 13C NMR δ 167.05, 147.37, 141.78, 137.80, 134.08, 131.87, 130.89, 129.57, 129.07, 128.63, 128.47, 126.28, 125.76, 125.02, 120.59, 116.85, 54.30, 52.33, 49.75, 43.70.

reactant | 7-trimethylstannyl-1-(4-methyl-1-piperazinyl)-naphthalene | 0.67 mmol, 0.25 g | C[Sn](C1=CC=C2C=CC=C(C2=C1)N1CCN(CC1)C)(C)C
reactant | 3-methoxycarbonyl-1-bromobenzene | 0.74 mmol, 0.16 g | COC(=O)C=1C=C(C=CC1)Br | C8H7BrO2
reactant | triethylamine | 3.23 mmol, 0.45 mL | C(C)N(CC)CC | C6H15N
reactant | lithium chloride | 2.07 mmol, 0.088 g | [Cl-].[Li+]
reactant | HCl | Cl | ClH
solvent | DMF | 12.5 mL | CN(C)C=O | C3H7NO
solvent | ether | CCOCC | C4H10O
catalyst | bis (triphenylphosphine) palladium chloride | 0.036 mmol, 0.025 g | [Pd](Cl)Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 7-(3-Methoxycarbonylphenyl)-1-(4-methyl-1-piperazinyl)-naphthalene | COC(=O)C=1C=C(C=CC1)C1=CC=C2C=CC=C(C2=C1)N1CCN(CC1)C | C23H24N2O2
